US07723369B2
2-(4′-tert-Butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1-(4-iodo-phenyl)-1H-imidazole (191 mg, 0.3 mmol) was treated as described in general procedure R using L-2-aminobutyric acid (310 mg, 3 mmol) to give (S)-2-{4-[2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-butyric acid, which was then treated as described in general procedure F to give (4S)-5-{4-[2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-4-ethyl-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 2-(4′-tert-Butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1-(4-iodo-phenyl)-1H-imidazole | 0.3 mmol, 191 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)I | C32H27Cl2IN2
reactant | L-2-aminobutyric acid | 3 mmol, 310 mg | CC[C@@H](C(=O)O)N | C4H9NO2
product | (S)-2-{4-[2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-butyric acid | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N[C@H](C(=O)O)CC | C36H35Cl2N3O2
